US05753679
0.26 g (0.000588 mol) of 1-benzyl-piperidin-4-yl 4-iodo-2-nitro-benzoate was dissolved in 3.3 ml of ethanol, diluted with 3.3 ml of acetic acid and treated with 0.123 g (0.0022 mol) of iron powder. The mixture was boiled at reflux for 4 hrs., the solvent was distilled off, the residue was taken up in ethyl acetate, washed with saturated sodium carbonate solution and sodium chloride solution and the organic phase was dried over sodium sulfate. The residue was chromatographed on silica gel with ethyl acetate/hexane (1:4) as the eluent. 0.232 g (95%) of 1-benzyi-piperidin-4-yl 4-iodo-2-amino-benzoate was obtained as a yellow oil. MS: me/e=437 (C19H22IN2O2 +).

reactant | 1-benzyl-piperidin-4-yl 4-iodo-2-nitro-benzoate | 0.000588 mol, 0.26 g | IC1=CC(=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C19H19IN2O4
solvent | ethanol | 3.3 ml | C(C)O | C2H6O
solvent | acetic acid | 3.3 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 0.0022 mol, 0.123 g | [Fe] | Fe
product | 1-benzyi-piperidin-4-yl 4-iodo-2-amino-benzoate | 0.232 g, 95% | IC1=CC(=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1)N | C19H21IN2O2
